US04000260
1. 5' -O-Tosyl-2'-deoxyuridine
22.8 GM OF DEOXYURIDINE (100 MMOLES) ARE DISSOLVED IN 100 ML OF FRESHLY DISTILLED, DRY PYRIDINE AND KEPT ON ICE AT 4° C. Freshly recrystallized p-toluenesulfonyl chloride (22 gm, 115 mmoles) is dissolved in a separate 100 ml of cold pyridine and then slowly added to the nucleoside solution. The reaction mixture is left standing at 4° C for 24 hours and the solution poured into 400 ml of ice water. This solution is then extracted twice with 500 ml of chloroform, the chloroform extracts combined and back extracted with 250 ml of a saturated solution of sodium bicarbonate and 250 ml of water. The chloroform layer is collected and dried over anhydrous magnesium sulfate. The solvent is removed by rotary evaporation in vacuo to yield 32 gm of a crude, tan-colored product. Recrystallization from 95% ethanol affords 25.3 gm (66% yield) of white crystals, M.P. 162°.

reactant | DEOXYURIDINE | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | p-toluenesulfonyl chloride | 115 mmoles, 22 gm | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5' -O-Tosyl-2'-deoxyuridine | 25.3 gm, 66% yield | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C=C1)O | C16H18N2O7S
